US07855206B2
Step A: tert-Butyl 7H-pyrrolo[3′,4′:3,4]pyrazolo[1,5-b][1,2,4]triazine-8(9H)-carboxylate
To a stirred solution of 0.2 g (0.89 mmol) of tert-butyl 3-amino-2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate in N,N-dimethylformamide (4 mL) at −10° C. was added 0.37 g (5.6 mmol) of powdered potassium hydroxide. The reaction mixture was stirred between 0° C. and −10° C. for 20 min. To this mixture was added 0.2 g (1.78 mmol) of hydroxylamine-O-sulfonic acid in eight portions over 20 min while maintaining the temperature between 0° C. and −10° C. Stirring was continued for 45 min while keeping the temperature below 5° C. Ethanol (4 mL) was added slowly to maintain the temperature below 5° C. and 0.2 mL (1.78 mmol) of 40% glyoxal in water was added. The reaction mixture was stirred below 5° C. for 15 min, warmed to ambient temperature over 15 min and stirred at ambient temperature for 45 min. The reaction mixture was cooled to below 5° C. and a 1:1 mixture of half saturated aqueous ammonium chloride/brine (15 mL) was added. The reaction mixture was extracted with ethyl acetate (4×15 mL), and the combined organic phases washed with saturated aqueous brine (15 mL), dried over anhydrous magnesium sulfate, filtered and the solvent evaporated in vacuo. The residue was purified by flash chromatography on a Biotage Horizon® system (silica gel, 0 to 40% hexanes/ethyl acetate gradient) to yield the title compound as a yellow solid. LC/MS 262.2 (M+1).

reactant | tert-butyl 3-amino-2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate | 0.89 mmol, 0.2 g | NC1=C2C(=NN1)CN(C2)C(=O)OC(C)(C)C | C10H16N4O2
reactant | potassium hydroxide | 5.6 mmol, 0.37 g | [OH-].[K+]
reactant | hydroxylamine-O-sulfonic acid | 1.78 mmol, 0.2 g | NOS(=O)(=O)O | H3NO4S
reactant | glyoxal | 1.78 mmol, 0.2 mL | C(=O)C=O | C2H2O2
reactant | ammonium chloride brine | 15 mL | [Cl-].[NH4+].[Cl-].[Na+].O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethanol | 4 mL | C(C)O | C2H6O
product | tert-Butyl 7H-pyrrolo[3′,4′:3,4]pyrazolo[1,5-b][1,2,4]triazine-8(9H)-carboxylate | N=1C=2N(N=CC1)N=C1C2CN(C1)C(=O)OC(C)(C)C | C12H15N5O2
